US06987084B2
Step (1) preparation of 2-(2,4-Dimethyl-cyclohex-3-enyl)-oxazolidine (6):
To a 0° C. stirred solution of 66 g (0.47 mol) triplal and 21 g sodium sulfate in 150 mL of methanol is added 29 g (0.47 mol) of ethanolamine. The reaction is allowed to warm to room temperature. After stirring for 24 h the mixture is cooled to 0° C. and the solids are removed via vacuum filtration through Celite. Evaporation of the solvent gives a clear, slightly yellow oil.

reactant | triplal | 0.47 mol, 66 g | CC1C=CCCC1(C)C=O | C9H14O
reactant | sodium sulfate | 21 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | ethanolamine | 0.47 mol, 29 g | C(O)CN | C2H7NO
reactant | methanol | 150 mL | CO | CH4O
product | 2-(2,4-Dimethyl-cyclohex-3-enyl)-oxazolidine | CC1C(CCC(=C1)C)C1OCCN1 | C11H19NO
